* AD8534 SPICE Macro-model             
* Description: Amplifier
* Generic Desc: Quad CMOS rail-rail low cost op amp
* Developed by: ARG/TAM ADSC
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (07/1997)
* Copyright 1996, 1997, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node assignments
*                non-inverting input
*                |  inverting input
*                |  |  positive supply
*                |  |  |  negative supply
*                |  |  |  |  output
*                |  |  |  |  |
.SUBCKT AD8534   1  2  99 50 40
*
* INPUT STAGE
*
m1 3 2 6 50 nix l=6u w=25u
m2 4 7 6 50 nix l=6u w=25u
m3 8 2 5 5 pix l=6u w=25u
m4 9 7 5 5 pix l=6u w=25u
eos 7 1 poly(1) 25 98 5e-3 0.451
iin1 1 98 5p
iin2 2 98 5p
ios 2 1 0.5p
i1 99 5 50u
i2 6 50 50u
r1 99 3 4.833k
r2 99 4 4.833k
r3 8 50 4.833k
r4 9 50 4.833k
d3 5 99 dx
d4 50 6 dx
*
* GAIN STAGE
*
eref 98 0 poly(2) 99 0 50 0 0 0.5 0.5
g1 98 21 poly(2) 4 3 9 8 0 145u 145u
rg 21 98 18.078e6
cc 21 40 14p
d1 21 22 dx
d2 23 21 dx
v1 99 22 1.37
v2 23 50 1.37
*
* COMMON MODE GAIN STAGE
*
ecm 24 98 poly(2) 1 98 2 98 0 0.5 0.5
r5 24 25 1e6
r6 25 98 10k
c1 24 25 0.75p
*
* OUTPUT STAGE
*
isy 99 50 450.4u
gsy 99 50 poly(1) 99 50 -3.334e-4 6.667e-5
ep 99 39 poly(1) 98 21 0.78925 1
en 38 50 poly(1) 21 98 0.78925 1
m15 40 39 99 99 pox l=1.5u w=1500u
m16 40 38 50 50 nox l=1.5u w=1500u
c15 40 39 50p
c16 40 38 50p
.model dx d(rs=1 cjo=0.1p)
.model nix nmos(vto=0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.model nox nmos(vto=0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pix pmos(vto=-0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pox pmos(vto=-0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)
.ends AD8534





